US04486589
2-(1-Pyrrolidinylmethyl)benzenesulfonamide
A solution of 2-(chloromethyl)benzenesulfonamide (2.00 g, 10 mmol) in acetonitrile (20 ml) was contacted with pyrrolidine (1.6 ml, 20 mmol). After 1.0 hr at ambient temperature, the volatiles were removed under vacuum and the residue was treated with water (40 ml) and chilled. The resulting solid was pulverized, filtered, and dried to give 2.23 g of white solid, m.p. 110°-112°.

reactant | 2-(chloromethyl)benzenesulfonamide | 10 mmol, 2.00 g | ClCC1=C(C=CC=C1)S(=O)(=O)N | C7H8ClNO2S
reactant | pyrrolidine | 20 mmol, 1.6 ml | N1CCCC1 | C4H9N
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | 2-(1-Pyrrolidinylmethyl)benzenesulfonamide | 2.23 g | N1(CCCC1)CC1=C(C=CC=C1)S(=O)(=O)N | C11H16N2O2S
